US07253171B2
A solution of (S)-3-(4-Aminophenyl)-2-tert-butoxycarbonylaminopropionic acid methyl ester (0.25 g, 0.84 mmol), 2-chloro[1,6]naphthyridine-3-carbonitrile (0.15 g, 0.77 mmol) (prepared according to the method of E. M. Hawes et al., J. Med. Chem. 1973,16, 849) and diisopropylethylamine (0.11 g, 0.84 mmol) in EtOH (1 ml) were heated under reflux for 3 h. The solvent was removed under reduced pressure and the resulting crude was purified by flash chromatography (CH2Cl2;AcOEt, 1:1) to yield (S)-2-tert-Butoxycarbonylamino-3-[4-(3-cyano[1,6]naphthyridin-2-ylamino)phenyl]propionic acid methyl ester (0.12 g, 34%) as a yellow solid.

reactant | (S)-3-(4-Aminophenyl)-2-tert-butoxycarbonylaminopropionic acid methyl ester | 0.84 mmol, 0.25 g | COC([C@H](CC1=CC=C(C=C1)N)NC(=O)OC(C)(C)C)=O | C15H22N2O4
reactant | 2-chloro[1,6]naphthyridine-3-carbonitrile | 0.77 mmol, 0.15 g | ClC1=NC2=CC=NC=C2C=C1C#N | C9H4ClN3
reactant | diisopropylethylamine | 0.84 mmol, 0.11 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOH | 1 ml | CCO | C2H6O
product | (S)-2-tert-Butoxycarbonylamino-3-[4-(3-cyano[1,6]naphthyridin-2-ylamino)phenyl]propionic acid methyl ester | 0.12 g, 34% | COC([C@H](CC1=CC=C(C=C1)NC1=NC2=CC=NC=C2C=C1C#N)NC(=O)OC(C)(C)C)=O | C24H25N5O4
